US06340759B1
4-Chloro-3-cyanopyridine (1.50 g) and 4-methoxyphenylacetylene (1.60 g) were reacted in the presence of dichlorobistriphenylphosphinepalladium (0.14 g), cuprous iodide (75 mg) and triethylamine (10 ml) in N,N-dimethylformamide (25 ml) in nitrogen atmosphere at 100° C. overnight. The reaction mixture was poured into water (100 ml), and the mixture was extracted with ethyl acetate. The resulting organic layer was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system), to give 4-(4-methoxyphenylethynyl)-3-cyanopyridine (2.13 g, 95%) as a pale yellow oil.

reactant | 4-Chloro-3-cyanopyridine | 1.50 g | ClC1=C(C=NC=C1)C#N | C6H3ClN2
reactant | 4-methoxyphenylacetylene | 1.60 g | COC1=CC=C(C=C1)C#C | C9H8O
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 4-(4-methoxyphenylethynyl)-3-cyanopyridine | 2.13 g, 95% | COC1=CC=C(C=C1)C#CC1=C(C=NC=C1)C#N | C15H10N2O
